US09227970B2
b) 2-Pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine
Using 6-Bromo-2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridine, this compound was prepared following the same method as for the synthesis of 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine. Brown solid (1.1 g, 81%). MS: m/z=204 (M+H+).

reactant | 6-Bromo-2-pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridine | BrC=1C=CC=2N(C1)N=C(N2)N2CCCC2 | C10H11BrN4
reactant | 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine | N1(CCOCC1)C1=NN2C(C=CC(=C2)N)=N1 | C10H13N5O
product | 2-Pyrrolidin-1-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine | N1(CCCC1)C1=NN2C(C=CC(=C2)N)=N1 | C10H13N5
